US06048864
(c) 2-Cyano-4,5-dimethoxy-3-(2,2,2-trifluoroethoxy)aniline
The subtitle compound was prepared from 2-cyano-4,5-dimethoxy-3-(2,2,2-trifluoroethoxy)nitrobenzene using Na2S2O4 following the procedure described in Example 10(f) (87%). Rf 0.27 (dichloromethane). MS m/z 294 (MNH4)+

reactant | 2-cyano-4,5-dimethoxy-3-(2,2,2-trifluoroethoxy)nitrobenzene | C(#N)C1=C(C=C(C(=C1OCC(F)(F)F)OC)OC)[N+](=O)[O-] | C11H9F3N2O5
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Cyano-4,5-dimethoxy-3-(2,2,2-trifluoroethoxy)aniline | C(#N)C1=C(N)C=C(C(=C1OCC(F)(F)F)OC)OC | C11H11F3N2O3
